US04174397
4.8 g (0.03 mole) of 4-methyl-1-tetralone are reacted with 4.8 g (0.03 mole) of bromine in ethyl acetate, analogously to the instructions indicated in Example 29 (a), to give 2-bromo-4-methyl-1-tetralone. The oily product is further processed immediately without further purification.

reactant | 4-methyl-1-tetralone | 0.03 mole, 4.8 g | CC1CCC(C2=CC=CC=C12)=O | C11H12O
reactant | bromine | 0.03 mole, 4.8 g | BrBr | Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-methyl-1-tetralone | BrC1C(C2=CC=CC=C2C(C1)C)=O | C11H11BrO
